US05585385
To a suspension of magnesium (4.2 g) in THF (20 ml) was added iodine (catalytic amount) while stirring at room temperature under argon atmosphere. To the mixture was then added dropwise a solution of 1-bromo-4-fluorobenzene (22.8 g) in THF (60 ml), and the mixture was stirred for 30 minutes. The mixture was added dropwise, while stirring at room temperature, to a solution of 2,3-pyrazinedicarboxylic anhydride (20.0 g) in THF (100 ml), followed by stirring for one hour. The reaction mixture was poured into dilute HCl (adjusting the pH to 4 to 5), followed by extraction with ethyl acetate. The extract solution was washed with water and dried, then the solvent was distilled off to give 3-(4-fluorobenzoyl)-2-pyrazinecarboxylic acid as a colorless oily product (25.8 g).

reactant | magnesium | 4.2 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-4-fluorobenzene | 22.8 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 2,3-pyrazinedicarboxylic anhydride | 20.0 g | N1=C2C(=NC=C1)C(=O)OC2=O | C6H2N2O3
reactant | HCl | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(4-fluorobenzoyl)-2-pyrazinecarboxylic acid | FC1=CC=C(C(=O)C=2C(=NC=CN2)C(=O)O)C=C1 | C12H7FN2O3
